US05514691
3-Nitro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared in the same manner as described in Example 5 from 5-amino-4-bromo-3-methylisoxazole and 3-nitrobenzenesulfonyl chloride in 55% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 151°-153° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 3-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
product | 3-Nitro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | 55% yield | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8BrN3O5S
